US06730789B1
Synthesis of 3,4-Diaminopyrazolo[1,5-a]pyridine Dihydrochloride
0.7 g of 3,4-dinitropyrazolo[1,5-a]pyridine was added to a suspension of 11.1 g of tin chloride in 80 ml of concentrated hydrochloric acid. The reaction was monitored by thin layer chromatography (TLC). The pH of the reaction mixture was adjusted to 12 using sodium hydroxide. The aqueous phase was extracted with ethyl acetate and the organic phase was dried over sodium sulfate. The organic phase was acidified with 3 ml of hydrochloric ethanol (2.5 N HCl). The precipitate was filtered off. This gave 0.55 g of pyrazolo[1,5-a]pyridine-3,4-diamine hydrochloride, whose 1H NMR analysis (DMSO-d6, 400 MHz) (δ ppm) was as follows:

reactant | 3,4-dinitropyrazolo[1,5-a]pyridine | 0.7 g | [N+](=O)([O-])C=1C=NN2C1C(=CC=C2)[N+](=O)[O-] | C7H4N4O4
reactant | tin chloride | 11.1 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 80 ml | Cl | ClH
product | 3,4-Diaminopyrazolo[1,5-a]pyridine Dihydrochloride | Cl.Cl.NC=1C=NN2C1C(=CC=C2)N | InChI=1S/C7H8N4.2ClH/c8-5-2-1-3-11-7(5)6(9)4-10-11;;/h1-4H,8-9H2;2*1H
